US05049572
A solution of 8.6g (0.063 mole) of anthranilic acid in 50 ml of 1,2-dimethoxyethane was added to a suspension of 8.0g (0.0298 mole) of 3,5-di-t-butyl-4-hydroxybenzoyl chloride in 150 ml of 1,2-dimethoxyethane. The reaction mixture was heated at approximately 75° C. for 30 minutes after which time it was stirred for 48 hours at room temperature. The reaction mixture was then filtered, and the filtrate was evaporated to give the crude product as an oil. This oil was triturated with a mixture of ethanol and water to give a solid which was recrystallized twice from a mixture of ethanol and water to give 5.3g of white crystalline N-(2-carboxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide, m.p. 202°-203° C. Analysis: Calculated for C22H27NO4 : %C, 71.5; %H, 7.4; %N, 3.8; Found: %C, 71.4; %H, 7.5; %N, 3.7.

reactant | anthranilic acid | 0.063 mole, 8.6g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | 0.0298 mole, 8.0g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
product | N-(2-carboxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide | 5.3g | C(=O)(O)C1=C(C=CC=C1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H27NO4
